US07432397B2
(i) 2-chloro-5-(methylthio)aniline hydrochloride
To a stirred solution of 2-chloro-5-(methylthio)benzoic acid (5 g, 24.67 mmol) in t-butanol (20 mL) was added triethylamine (5.25 mL, 37.8 mmol). After stirring briefly, diphenylphosphoryl azide (6 mL, 27.60 mmol) was added dropwise. The reaction mixture was slowly heated to reflux for 6 hours and then cooled to room temperature. The solvent was removed under reduced pressure and the crude reaction mixture was dissolved in tetrahydrofuran (12.5 mL) followed by the addition of 12.5 mL trifluoroacetic acid (1:1). The reaction mixture was heated to reflux for 6 hours and the solvent was evaporated after cooling to room temperature. The reaction miture was treated with NaOH (25%) to bring the pH to 12 while cooling in an ice water bath. The product was repeatedly extracted into ethylacetate (4×25 mL) and the organic layer washed with water (10 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo to afford yellow oil. The product was purified by column chromatography (SiO2, gradient of hexanes/EtOAc) and the collected samples dissolved in ether and treated with HCl/ether (10 mL, 1 M) to provide white crystals. The final product was a white solid (3.73 g, 87% yield): mp: 180-181° C.;

reactant | 2-chloro-5-(methylthio)benzoic acid | 24.67 mmol, 5 g | ClC1=C(C(=O)O)C=C(C=C1)SC | C8H7ClO2S
reactant | triethylamine | 37.8 mmol, 5.25 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 27.60 mmol, 6 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | trifluoroacetic acid | 12.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | t-butanol | 20 mL | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofuran | 12.5 mL | O1CCCC1 | C4H8O
product | 2-chloro-5-(methylthio)aniline hydrochloride | Cl.ClC1=C(N)C=C(C=C1)SC | InChI=1S/C7H8ClNS.ClH/c1-10-5-2-3-6(8)7(9)4-5;/h2-4H,9H2,1H3;1H
